US05086178
2,2,2-Trifluoroethyl triflate (10.0 g, 43.1 mmol) was added slowly to a stirred, freshly-prepared solution of 1,4-diazabicyclo[2,2,2]octane (7.0 g, 62.5 mmol) in dichloromethane (50 cm3). The reaction mixture was stirred for 2 hours then filtered to remove a white precipitate, which was recrystallized from an ethanol-diethyl ether mixture to provide 1-(2,2,2-trifluoroethyl)-4-aza-1-azoniabicyclo [2,2,2]octane triflate (8.3 g, 24.1 mmol, 56%) (Found: C, 31.2; H, 3.8; N, 7.9%. Calc. C, 31.4; H, 4.1; N, 8.1%). m.p. 123°-125° C., δF (soln. in D2O; ext. CF3CO2H ref.) -0.2 (s; CF3SO3-) 17.8 (t, 3JHF 9 Hz; CF3CH2) p.p.m., δH (same solution) 3.30 (t; 3×ring CH2), 3.72 (t; 3×ring CH 2), 4.36 (q, 3JHF 9 Hz; CH2CF3) p.p.m.

reactant | 2,2,2-Trifluoroethyl triflate | 43.1 mmol, 10.0 g | O(S(=O)(=O)C(F)(F)F)CC(F)(F)F | C3H2F6O3S
reactant | 1,4-diazabicyclo[2,2,2]octane | 62.5 mmol, 7.0 g | N12CCN(CC1)CC2 | C6H12N2
solvent | dichloromethane | 50 cm3 | ClCCl | CH2Cl2
product | 1-(2,2,2-trifluoroethyl)-4-aza-1-azoniabicyclo [2,2,2]octane triflate | 24.1 mmol, 8.3 g | [O-]S(=O)(=O)C(F)(F)F.FC(C[N+]12CCN(CC1)CC2)(F)F | InChI=1S/C8H14F3N2.CHF3O3S/c9-8(10,11)7-13-4-1-12(2-5-13)3-6-13;2-1(3,4)8(5,6)7/h1-7H2;(H,5,6,7)/q+1;/p-1
